US06268444B1
Preparation of N-(1,1-dimethylethyl)-1,1-dimethyl-1-(3-(methylphenylamino)-1H-inden-1-yl)silanamine, (71).
(3-(Methylphenylamino)-1H-indenyl)lithium (3.10 g, 13.64 mmol) was dissolved in 50 mL of THF and added dropwise to a solution of t-butylaminodimethylsilylchloride (2.17 g, 16.35 mmol) in 35 mL. of THF over a 30 minute period, with stirring continued for 25 hours. The solvent was evaporated and the resulting oil was subjected to vacuum for 4 hours. This oil was dissolved in 100 mL of hexane and filtered of from LiCl. Solvent removal in vacuo and overnight vacuum devolatilization provided the product (4.66g, 13.3 mmol) as a dark red oil in 98 percent yield.

reactant | (3-(Methylphenylamino)-1H-indenyl)lithium | 13.64 mmol, 3.10 g | CN(C1=CC(C2=CC=CC=C12)[Li])C1=CC=CC=C1
reactant | t-butylaminodimethylsilylchloride | 16.35 mmol, 2.17 g | C(C)(C)(C)N[Si](C)(C)Cl | C6H16ClNSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(1,1-dimethylethyl)-1,1-dimethyl-1-(3-(methylphenylamino)-1H-inden-1-yl)silanamine | 13.3 mmol, 4.66g, 98 percent yield | CC(C)(C)N[Si](C1C=C(C2=CC=CC=C12)N(C1=CC=CC=C1)C)(C)C | C22H30N2Si
